US08012974B2
A mixture of (3R,5R)-3-methyl-5-{3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-ureido}-piperidine-1-carboxylic acid benzyl ester (1.04 g, 1.93 mmol) and palladium hydroxide 20% on carbon (0.15 g) in 20 mL of EtOH was stirred at RT under hydrogen (1 atm) for 2 hours before being filtered. The dark brown filtrate was evaporated to give 0.76 g of 1-((3R,5R)-5-methyl-piperidin-3-yl)-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea (>95%).

reactant | (3R,5R)-3-methyl-5-{3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-ureido}-piperidine-1-carboxylic acid benzyl ester | 1.93 mmol, 1.04 g | C(C1=CC=CC=C1)OC(=O)N1C[C@@H](C[C@H](C1)NC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C)C | C27H38N6O4Si
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
product | 1-((3R,5R)-5-methyl-piperidin-3-yl)-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea | 0.76 g, >95% | C[C@@H]1C[C@H](CNC1)NC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C | C19H32N6O2Si
